US04039579
2-[1-Imino-2-(methylsulfinyl)ethyl]phenol
A solution of 2'-hydroxy-2-(methylsulfinyl)acetophenone (23.5 g, 0.12 mole) in liquid ammonia (450 ml) was stirred at -33° for 9 hrs. The ammonia was allowed to evaporate. The residue was recrystallized from methanol to give yellow crystals (18.5 g, 79%), mp 194°-195°.

reactant | 2'-hydroxy-2-(methylsulfinyl)acetophenone | 0.12 mole, 23.5 g | OC1=C(C=CC=C1)C(CS(=O)C)=O | C9H10O3S
reactant | ammonia | 450 ml | N | H3N
product | 2-[1-Imino-2-(methylsulfinyl)ethyl]phenol | 18.5 g, 79% | N=C(CS(=O)C)C1=C(C=CC=C1)O | C9H11NO2S
